US07112678B2
To a stirred solution of (benzyloxymethyl)tributyl stannane (prepared according to reference 1) (0.308 g, 0.75 mmol) in THF (0.75 mL) cooled at −78° C. was added n-butyllithium (0.35 mL, 0.75 mmol). After stirring at −78° C. for 30 min, the Lipshultz reagent (3 mL, 0.75 mmol) was introduced dropwise, and the mixture was allowed to stir for 30 min at −78° C. In a separate flask, a stirred solution of nicotine (0.08 mL, 0.5 mmol) in THF (1 mL) was cooled at 0° C. and treated with pivaloyl chloride (0.06 mL, 0.5 mmol). This solution was then stirred at 0° C. for 1.5 h. The cuprate solution prepared above was then transferred via a double tipped needle surrounded by a layer of dry ice to the pyridinium salt of nicotine previously cooled to −78° C. After addition of a saturated aqueous solution of NH4Cl (10 mL), the aqueous layer was extracted with EtOAc (3×). The combined organic layers were washed with 20% NH4Cl/NH4OH, water and brine, and were dried over K2CO3. After evaporation of the solvent under reduced pressure, the crude material was purified by radial PLC (hexanes) to afford 0.107 g (70%) of 1-[4-benzyloxymethyl-3-(1-methylpyrrolidin-2-yl)-4H-pyridin-1-yl]-2,2-dimethyl-propan-1-one as a yellow oil. IR (thin film, neat, NaCl) 2928, 1772, 1724, 1656, 1599, 1454, 1364, 1267, 1153, 1100 cm−1; 1H NMR (CDCl3, 400 MHz) δ701 6.94 (m, 5H), 6.80 (d, 1H, J=8 Hz), 4.93 (dd, 1H, J=4.8H Hz and 8 Hz), 4.18 (d, 2H, J=6.8 Hz), 3.37 (dd, 1H, J=4 Hz and 8.4 Hz), 3.05 (t, 1H, J=8 Hz), 2.87–2.83 (m, 1H), 2.74 (t, 1H, J=7.6 Hz), 2.25 (t, 1H, J=7.6 Hz), 1.85 (s, 3H), 1.81–1.77 (m, 1H), 1.58–1.37 (m, 4H), 1.01 (s, 9H); 13C NMR (CDCl3, 100 MHz) δ 173.65, 138.51, 128.09, 127.28, 127.22, 124.40, 123.45, 119.32, 109.80, 74.32, 72.78, 70.55, 56.69, 40.32, 39.31, 35.62, 30.74, 28.06, 22.74; HRMS Calcd for C23H32N2O2: 369.2542 [M+H]+. Found: 369.2543 [M+H]+. [α]D28+26.6 (c 5.6, CH2Cl2). Reference 1: Kaufman, T. S. Synlett, 1997, 1377.

reactant | (benzyloxymethyl)tributyl stannane | 0.75 mmol, 0.308 g | C(C1=CC=CC=C1)OC[Sn](CCCC)(CCCC)CCCC
reactant | n-butyllithium | 0.75 mmol, 0.35 mL | C(CCC)[Li]
reactant | nicotine | 0.5 mmol, 0.08 mL | N1=CC=CC(=C1)C1N(C)CCC1 | C10H14N2
reactant | pivaloyl chloride | 0.5 mmol, 0.06 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | dry ice | C(=O)=O | CO2
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 0.75 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-[4-benzyloxymethyl-3-(1-methylpyrrolidin-2-yl)-4H-pyridin-1-yl]-2,2-dimethyl-propan-1-one | 0.107 g, 70% | C(C1=CC=CC=C1)OCC1C(=CN(C=C1)C(C(C)(C)C)=O)C1N(CCC1)C | C23H32N2O2
